US05486511
A solution of 17β-cyclopropyloxy-androst-5-en-3β-o1 (19.36 g, 58.9 mM) in acetone (1.9 L) previously cooled to -3° C. is treated with Jones reagent (20 ml). The excess reagent is decomposed with methanol. The solids are removed by filtration. The filtrate is concentrated to a green oil which is purified by flash chromatography on silica gel to give 17β-cyclopropyloxy-androst-4-en-3-one (11.0 g, 57%).

reactant | 17β-cyclopropyloxy-androst-5-en-3β-o1 | 58.9 mM, 19.36 g | C1(CC1)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C22H34O2
reactant | Jones reagent | 20 ml | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | methanol | CO | CH4O
solvent | acetone | 1.9 L | CC(=O)C | C3H6O
product | 17β-cyclopropyloxy-androst-4-en-3-one | 11.0 g, 57% | C1(CC1)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=CC(CC[C@]3(C)[C@H]1CC2)=O | C22H32O2
